US04820834
3-((2,3-Dihydro-1H-indol-3-yl)methyl)-1,3-dihydro-5-phenyl-2H-1,4-benzodiazepin-2-one
The procedure of Example 9 was followed in which 3(R)-[(1H-indol-3-yl)methyl]-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one was reduced to give the tile compound. The analytical sample was obtained after silica gel chromatography using hexane-ethyl acetate.

reactant | 3(R)-[(1H-indol-3-yl)methyl]-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one | N1C=C(C2=CC=CC=C12)C[C@@H]1C(NC2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)=O | C24H19N3O
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 3-((2,3-Dihydro-1H-indol-3-yl)methyl)-1,3-dihydro-5-phenyl-2H-1,4-benzodiazepin-2-one | N1CC(C2=CC=CC=C12)CC1C(NC2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)=O | C24H21N3O
